4
R0100 1 0 1
R0203 2 3 1
L0402 4 2 5.86082142618579E-1
L0104 1 4 8.81627694905546E-1
C0200 2 0 1.41517470742474
C0400 4 0 2.13067465696804
C0100 1 0 1.84421824323726
C0402 4 2 1.08537480611994
C0104 1 4 3.64397675632063E-1
V0300 3 0 1
.ac log 180 0.02 5.0 rads