22
R0000 0 0 1 1
R0102 1 2 1
R0301 3 1 1
R0403 4 3 1
R0504 5 4 1
R0607 6 7 1
R0806 8 6 1
R0908 9 8 1
R1009 10 9 1
R1102 11 2 1
R1207 12 7 1
R1305 13 5 1
R1410 14 10 1
R1215 12 15 1
R1612 16 12 1
R1716 17 16 1
R1817 18 17 1
R1418 14 18 1
R1119 11 19 1
R2011 20 11 1
R2120 21 20 1
R2221 22 21 1
R1322 13 22 1
C0221 2 21 1.08537480611994
C1707 17 7 1.08537480611994
C0521 5 21 3.64397675632063E-1
C1710 17 10 3.64397675632063E-1
C1102 11 2 2.50054951354468
C1207 12 7 2.50054951354468
C1601 16 1 5.86082142618579E-1
C2006 20 6 5.86082142618579E-1
C2103 21 3 3.58044713872005
C1708 17 8 3.58044713872005
C1804 18 4 8.81627694905546E-1
C2209 22 9 8.81627694905546E-1
C1305 13 5 2.20861591886933
C1410 14 10 2.20861591886933
C1103 11 3 1.08537480611994
C0812 8 12 1.08537480611994
C1303 13 3 3.64397675632063E-1
C0814 8 14 3.64397675632063E-1
O0207 2 7 11 12
O0308 3 8 21 17
O0510 5 10 13 14
O1620 16 20 1 6
O1822 18 22 4 9
V1900 19 0 1
V0015 0 15 1
.ac log 180 0.02 5.0 rads
