6
R0100 1 0 1
R0203 2 3 1
L0405 4 5 3.64397675632063E-1
L0104 1 4 1.84421824323726
C0600 6 0 5.86082142618579E-1
C0500 5 0 8.81627694905546E-1
K0206 2 6 4 6 2.50054951354468 3.21604946308798 3.82737175367765E-1
V0300 3 0 1
.ac log 200 0.2 2.0 rads